### PR TITLE
chore: remove more unused simp args

### PR DESCRIPTION
**Pull request by nomeata**
This PR uses the linter from #8901 to clean up more simp arguments, completing #8905.

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -1701,10 +1701,10 @@ theorem msb_sdiv_eq_decide {x y : BitVec w} :
      := by
   rcases w; decide +revert
   case succ w =>
-    simp only [decide_true, ne_eq, decide_and, decide_not, Bool.true_and,
+    simp only [
       sdiv_eq, udiv_eq]
```
Comment (nomeata) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    simp only [sdiv_eq, udiv_eq]
```

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 2441bf1f76471592fefd434c96189df191cbd90a --onto db499e96aac8ad654c8ed5ab40c4e6885d38c9a1`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-21 18:48:16)
